US07576108B2
d: (E)-3-Cyclopentyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester
Following the method of example 54c, reaction of (Z)-2-bromo-3-cyclopentyl-acrylic acid ethyl ester (56.8 g, 229 mmol) with 4-(methylthio)benzene boronic acid (46.3 g, 276 mmol) and tetrakis(triphenylphosphino)palladium(0) (10.4 g, 3 mol %) in a mixture of toluene (1600 ml), ethanol (421 ml) and 2 M aqueous sodium carbonate solution (420 ml) affords the title compound as an oil (56.9 g). MS (m/e): 291.2 (M+H).

reactant | (Z)-2-bromo-3-cyclopentyl-acrylic acid ethyl ester | 229 mmol, 56.8 g | C(C)OC(/C(=C/C1CCCC1)/Br)=O | C10H15BrO2
reactant | 4-(methylthio)benzene boronic acid | 276 mmol, 46.3 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | ethanol | 421 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2 M, 420 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 1600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphino)palladium(0) | 10.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-3-Cyclopentyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester | 56.9 g | C(C)OC(\C(=C\C1CCCC1)\C1=CC=C(C=C1)SC)=O | C17H22O2S
